US05245039
A sample of (+) tertbutyl,allyl 2,6-dimethyl-4phenyl-1,4-dihydropyridine-3,5-dicarboxylate is treated in dioxane with 10% Pd on C, ammonium formate and triphenylphospine to give (+)-tertbutyl 2,6-dimethyl-4-phenyl-5-carboxy-1,4-dihydropyridine-3-carboxylate.

reactant | (+) tertbutyl,allyl 2,6-dimethyl-4phenyl-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC=CC(C)(C)C)C1=CC=CC=C1)C(=O)[O-])C
reactant | ammonium formate | C(=O)[O-].[NH4+]
reactant | triphenylphospine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd | [Pd] | Pd
product | (+)-tertbutyl 2,6-dimethyl-4-phenyl-5-carboxy-1,4-dihydropyridine-3-carboxylate | CC=1NC(=C(C(C1C(=O)OC(C)(C)C)C1=CC=CC=C1)C(=O)O)C | C19H23NO4
